US03939167
A reaction identical with that of Example 3 is performed on the 3-methylsulfinylacetyl-5-phenylisoxazole (1.25 g) prepared in a manner similar to that described in Example 1 or 2 with the exception that the ethyl acetate solution of hydrogen chloride is replaced by a solution of acetyl bromide (741 mg, 6.025 milimoles) in dichloromethane (10 ml) to give 3-(2-methylthio-2-bromoacetyl)-5-phenylisoxazole (1.62 g, 103.5 %) as a crude crystalline residue.

reactant | 3-methylsulfinylacetyl-5-phenylisoxazole | 1.25 g | CS(=O)CC(=O)C1=NOC(=C1)C1=CC=CC=C1 | C12H11NO3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrogen chloride | Cl | ClH
reactant | acetyl bromide | 741 mg | C(C)(=O)Br | C2H3BrO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(2-methylthio-2-bromoacetyl)-5-phenylisoxazole | 1.62 g, 103.5 % | CSC(C(=O)C1=NOC(=C1)C1=CC=CC=C1)Br | C12H10BrNO2S
